US07091228B2
To a solution of methyl 4-(4′-amino-1,1′-biphenyl-4-yl)-2,2-dimethyl-4-oxobutanoate (74 mg, 0.24 mmol) in dichloroethane (3 mL), 4-methyl-2-(methylsulfonyl)-1,3-benzoxazole (50 mg, 0.24 mmol) was added, and the mixture was heated at 85° C. overnight. The solvent was removed by rotary evaporation and the residue was redissolved in DMF (5 mL). A solution of 1 N aqueous NaOH (0.72 mL, 0.72 mmol) was added, and the mixture was heated at 65° C. overnight. A solution of 1 N aqueous HCl (0.24 mL, 0.24 mmol) and methanol (5 mL) was added to the reaction mixture and the crude product was purified by preparative reverse-phase HPLC (water/acetonitrile gradient, containing 0.1% TFA) to afford 2,2-dimethyl-4-{4′-[(4-methyl-1,3-benzoxazol-2-yl)amino]-1,1′-biphenyl-4-yl}4-oxobutanoic acid as a white solid (32.6 mg, 32.1%). 1H NMR (300 MHz, DMSO-d6) δ 8.00–7.80 (m, 8 H), 7.30 (d, 1 H), 7.05 (d, 2 H), 3.30 (s, 2 H), 2.50 (s, 3 H), 1.10 (s, 6 H); LC-MS ret. time 3.77 min (method 2), m/z 429.2 (MH+).

reactant | methyl 4-(4′-amino-1,1′-biphenyl-4-yl)-2,2-dimethyl-4-oxobutanoate | 0.24 mmol, 74 mg | NC1=CC=C(C=C1)C1=CC=C(C=C1)C(CC(C(=O)OC)(C)C)=O | C19H21NO3
reactant | 4-methyl-2-(methylsulfonyl)-1,3-benzoxazole | 0.24 mmol, 50 mg | CC1=CC=CC2=C1N=C(O2)S(=O)(=O)C | C9H9NO3S
reactant | NaOH | 0.72 mmol, 1 N, 0.72 mL | [OH-].[Na+]
reactant | HCl | 0.24 mmol, 1 N, 0.24 mL | Cl | ClH
solvent | dichloroethane | 3 mL | ClC(C)Cl | C2H4Cl2
solvent | methanol | 5 mL | CO | CH4O
product | 2,2-dimethyl-4-{4′-[(4-methyl-1,3-benzoxazol-2-yl)amino]-1,1′-biphenyl-4-yl}4-oxobutanoic acid | 32.6 mg, 32.1% | CC(C(=O)O)(CC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)NC=1OC2=C(N1)C(=CC=C2)C)C | C26H24N2O4
